US08980326B2
HO-Tyr(Bzl)-NH2 (20.0 g, 105.7 mmol) was suspended in 300 mL of anhydrous THF and heated to 50° C. Phosgene (20% in toluene) (73.7 mL, 147.4 mmol) was added the amino acid suspension. The amino acid dissolved over the course of approx. 1 hr, forming a pale yellow solution. The solution was concentrated on the rotovap, transferred to a beaker, and hexane was added to precipitate the product. The off-white solid was isolated by filtration and dissolved in anhydrous THF. The solution was stirred over carbon black and subsequently filtered over a bed of Celite. An excess of hexane was added to the filtrate to precipitate the product. The NCA was isolated by filtration and dried in vacuo. 14.3 g (65% yield) of Tyr(Bzl) NCA was isolated as a off-white, solid. 1H NMR (d6-DMSO) δ 9.07 (1H), 7.49-7.29 (5H), 7.12-7.07 (2H), 6.98-6.94 (2H), 5.06 (2H), 4.74 (1H), 3.05-2.88 (2H) ppm.

reactant | HO-Tyr(Bzl)-NH2 | 105.7 mmol, 20.0 g | ON[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N | C16H18N2O3
reactant | Phosgene | 147.4 mmol, 73.7 mL | C(=O)(Cl)Cl | CCl2O
reactant | carbon black | C | CH4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | Tyr(Bzl) | 14.3 g, 65% yield | N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C16H17NO3
